US04493838
The operation is as in Example 1, but starting from 15 g of 4-[2-(5-methoxy-3-indolyl)-ethyl]-piperidine and 0.25 g of triethylbenzylammonium chloride in 120 ml of chloroform and 18 g of sodium hydroxide in 35 ml of water. 1.85 g of 3-chloro-6-methoxy-4-[2-(4-piperidyl)-ethyl]-quinoline are finally obtained in the form of the dihydrochloride melting at 210° C.

reactant | 4-[2-(5-methoxy-3-indolyl)-ethyl]-piperidine | 15 g | COC=1C=C2C(=CNC2=CC1)CCC1CCNCC1 | C16H22N2O
reactant | sodium hydroxide | 18 g | [OH-].[Na+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylbenzylammonium chloride | 0.25 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 35 ml | O | H2O
product | 3-chloro-6-methoxy-4-[2-(4-piperidyl)-ethyl]-quinoline | 1.85 g | ClC=1C=NC2=CC=C(C=C2C1CCC1CCNCC1)OC | C17H21ClN2O
